US08084448B2
D. 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-3-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-[2-benzyloxy-4-((E)-2-pyrrolidin-3-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and benzenesulfonyl chloride analogous to Example 192, step B.

reactant | 5-[2-benzyloxy-4-((E)-2-pyrrolidin-3-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C1CNCC1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C26H35N3O4SSi
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-3-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)N1CC(CC1)/C=C/C1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C32H39N3O6S2Si
